US06747025B1
Preparation of 3-[(4-Morpholin-4-yl-phenylamino)-methylene]-1-piperidin-1-ylmethyl-1,3-dihydro-indol-2-one
A solution of 3-[(4-morpholinophenylamino)-methylene]-1,3-dihydro-indol-2-one (17.3 g, 53.8 mmol) and paraformaldehyde (2.43 g, 80.9 mmol.) in 125 mL of EtOH was treated with piperidine (5.87 mL, 59.3 mmol). The reaction mixture was then heated at a reflux temperature for 5 hours during which time a yellow precipitate formed. The reaction mixture was allowed to cool to room temperature and the solid was collected by filtration and washed with EtOH and dried under vacuum to give the title compound (21.5 g, 95%) as a yellow solid.

reactant | 3-[(4-morpholinophenylamino)-methylene]-1,3-dihydro-indol-2-one | 53.8 mmol, 17.3 g | O1CCN(CC1)C1=CC=C(C=C1)NC=C1C(NC2=CC=CC=C12)=O | C19H19N3O2
reactant | paraformaldehyde | 80.9 mmol, 2.43 g | C=O | CH2O
reactant | piperidine | 59.3 mmol, 5.87 mL | N1CCCCC1 | C5H11N
solvent | EtOH | 125 mL | CCO | C2H6O
product | 3-[(4-Morpholin-4-yl-phenylamino)-methylene]-1-piperidin-1-ylmethyl-1,3-dihydro-indol-2-one | 21.5 g, 95% | N1(CCOCC1)C1=CC=C(C=C1)NC=C1C(N(C2=CC=CC=C12)CN1CCCCC1)=O | C25H30N4O2
